US03966945
2-Methoxy-N-methyl-2-(2-pyridyl)thioacetamide (500 mg.) in ether is added to ethereal hydrogen chloride. The resulting precipitate is filtered off and recrystallized from ethanol/ether to give 2-methoxy -N-methyl-2-(2-pyridyl)thioacetamide hydrochloride.

reactant | 2-Methoxy-N-methyl-2-(2-pyridyl)thioacetamide | 500 mg | COC(C(=S)NC)C1=NC=CC=C1 | C9H12N2OS
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-methoxy -N-methyl-2-(2-pyridyl)thioacetamide hydrochloride | Cl.COC(C(=S)NC)C1=NC=CC=C1 | InChI=1S/C9H12N2OS.ClH/c1-10-9(13)8(12-2)7-5-3-4-6-11-7;/h3-6,8H,1-2H3,(H,10,13);1H
